US03966957
N-(1-Cyclohexyl-3-pyrrolidinyl)-N-methyl-4-nitrothiobenzamide
Twenty-five grams (0.56 mole) of N-(1-cyclohexyl-3-pyrrolidinyl)-p-nitro-N-methylbenzamide fumarate was partitioned between dil. sodium hydroxide and 400 ml. benzene. The benzene solution was dried with sodium sulfate and distilled to a volume of 250 ml. To this was added a finely ground mixture of 10 g. (0.045 mole) of phosphorous pentasulfide and 10 g. of potassium sulfide. The mixture was refluxed four hours and an additional 10 g. of phosphorous pentasulfide added and refluxed two hours. The benzene was decanted off of the hard solid. The solid was partitioned between dil. sodium hydroxide and chloroform. The chloroform was dried, concentrated and the residue crystallized twice from isopropyl ether-ethyl acetate. Yield 3.77 g. (19.5%); m.p. 108°-110°C.

reactant | N-(1-cyclohexyl-3-pyrrolidinyl)-p-nitro-N-methylbenzamide fumarate | 0.56 mole, Twenty-five grams | C(\C=C\C(=O)O)(=O)O.C1(CCCCC1)N1CC(CC1)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium sulfide | [S-2].[K+].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(1-Cyclohexyl-3-pyrrolidinyl)-N-methyl-4-nitrothiobenzamide | C1(CCCCC1)N1CC(CC1)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=S)C | C18H25N3O2S
